US09255100B2
N-cyclopropyl-4-[6-(3-fluorophenoxy)-8-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl]-2-methylbenzamide
To a stirred solution of 4.96 g (11.06 mmol) N-cyclopropyl-4-[6-(3-fluorophenoxy)-8-(methylsulfanyl)imidazo[1,2-b]pyridazin-3-yl]-2-methylbenzamide which was prepared according to intermediate example 486b in DMF (250 mL) were added 20.4 g (33.18 mmol) oxone in one portion at rt. After reaction for 72 h, further 30 g (55 mmol) oxone are added and the mixture is heated at 70° C. for one hour. Extraction with ethyl acetate/water, filtration of the organic phase through a Whatman filter and evaporation of the organic phase yielded the crude product (4.96 g, 93%) which was used without further purification.

reactant | N-cyclopropyl-4-[6-(3-fluorophenoxy)-8-(methylsulfanyl)imidazo[1,2-b]pyridazin-3-yl]-2-methylbenzamide | 11.06 mmol, 4.96 g | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2SC)OC2=CC(=CC=C2)F)C)=O | C24H21FN4O2S
reactant | oxone | 33.18 mmol, 20.4 g | OOS(=O)[O-].[K+]
reactant | oxone | 55 mmol, 30 g | OOS(=O)[O-].[K+]
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-4-[6-(3-fluorophenoxy)-8-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl]-2-methylbenzamide | 4.96 g, 93% | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2S(=O)(=O)C)OC2=CC(=CC=C2)F)C)=O | C24H21FN4O4S
